US06716843B2
(S)-1-[3-{2-[((Imino)-(methylsulphonylamino)-methyl)-amino]-ethylthio}-alanyl]-pyrrolidine Hydrochloride
Starting from (S)-3-(2-{[amino-(imino)-methyl]-amino}-ethylthio)-N-(benzyloxy-carbonyl)-alanine, methanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-3-(2-{[amino-(imino)-methyl]-amino}-ethylthio)-N-(benzyloxy-carbonyl)-alanine | NC(=N)NCCSC[C@@H](NC(=O)OCC1=CC=CC=C1)C(=O)O | C14H20N4O4S
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[3-{2-[((Imino)-(methylsulphonylamino)-methyl)-amino]-ethylthio}-alanyl]-pyrrolidine Hydrochloride | Cl.N=C(NS(=O)(=O)C)NCCSC[C@@H](N)C(=O)N1CCCC1 | InChI=1S/C11H23N5O3S2.ClH/c1-21(18,19)15-11(13)14-4-7-20-8-9(12)10(17)16-5-2-3-6-16;/h9H,2-8,12H2,1H3,(H3,13,14,15);1H/t9-;/m1./s1
